US05110807
26.1 g (0.1 mol) of 4,4-di(p-fluorophenyl)butylamine and 18.1 g of 3-bromopropionic acid ethyl ester are refluxed with 21.0 g of potassium carbonate in 200 ml of 2-butanone for 24 hours while stirring. The reaction mixture is filtered and the filtrate is concentrated by evaporation under reduced pressure, yielding crude 3-[4,4-di(p-fluorophenyl)-butylamino]-propionic acid ethyl ester in the form of an oil.

reactant | 4,4-di(p-fluorophenyl)butylamine | 0.1 mol, 26.1 g | FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F | C16H17F2N
reactant | 3-bromopropionic acid ethyl ester | 18.1 g | C(C)OC(CCBr)=O | C5H9BrO2
reactant | potassium carbonate | 21.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | 3-[4,4-di(p-fluorophenyl)-butylamino]-propionic acid ethyl ester | C(C)OC(CCNCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C21H25F2NO2
